US08357717B2
Conc. sulfuric acid (4.56 g; 1.5 equiv.) was added dropwise to a mixture of 3-(trifluoromethyl)aniline (5 g; 1 equiv.), glycerol (5.14 g; 1.8 equiv.) and iodine (150 mg). The resulting reaction mixture was stirred for 1 hour at 80-90° C. and for 3 hours at 160-170° C. When the conversion was complete, the reaction mixture was diluted at room temperature with 100 ml of water, neutralised with sodium carbonate and extracted 4× with 200 ml of dichloromethane. The combined organic phases were dried over sodium sulfate, the solvent was removed under reduced pressure and the crude product was purified by column chromatography (silica gel, 10% EtOAc/hexane). 7-(Trifluoromethyl)quinoline (1.35 g; 22.13%) was obtained in the form of a white crystalline solid.

reactant | sulfuric acid | 4.56 g, 1.5 equiv. | S(O)(O)(=O)=O | H2O4S
reactant | 3-(trifluoromethyl)aniline | 5 g, 1 equiv. | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | glycerol | 5.14 g, 1.8 equiv. | OCC(O)CO | C3H8O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
catalyst | iodine | 150 mg | II | I2
product | 7-(Trifluoromethyl)quinoline | 1.35 g, 22.13% | FC(C1=CC=C2C=CC=NC2=C1)(F)F | C10H6F3N
